US06200978B1
1-(1-ethoxymethyl)-1H-1,2,4-triazole
A solution of chloromethyl ethyl ether (23.5 g) in toluene (300 ml ), was added dropwise, over an hour, to a solution of 1,2,4-triazole (50 g) in toluene (50 ml), and the reaction stirred at room temperature for 18 hours. On cooling, the reaction mixture was evaporated to dryness in vacuo, the residue triturated with dichloromethane, and the resulting suspension filtered. The filtrate was evaporated in vacuo and purified by column chromatography over silica gel (5/95 methanol/dichloromethane) to afford the title compound as a colorless oil, 23.9 g.

reactant | chloromethyl ethyl ether | 23.5 g | C(C)OCCl | C3H7ClO
reactant | 1,2,4-triazole | 50 g | N1N=CN=C1 | C2H3N3
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(1-ethoxymethyl)-1H-1,2,4-triazole | C(C)OCN1N=CN=C1 | C5H9N3O
